US05417959
A mixture of 4-carboxy-1-methyl-2,6,7-trioxabicyclo[2.2.2]octane (9.3 g, 0.053 mol) and 1,3-dicyclohexylcarbodiimide (10.9 g, 0,053 mol) in 100 mL of acetonitrile is stirred at 25° C. for 30 min. Then 2-methyl-2-propanol (3.9 g, 5.0 mL, 0.053 mol) is added and the resulting mixture is stirred for 15 hrs. The solids are filtered and the filtrate is evaporated under reduced pressure to yield 4-(t-butoxycarbonyl)-1-methyl-2,6,7-trioxabicyclo[2.2.2]octane as a crude oil. This material is dissolved in 100 mL of tetrahydrofuran and stirred with 50 mL of 10% hydrochloric acid for 1 hr. The pH of the solution is adjusted to 7 with solid sodium bicarbonate and the solvents are removed under reduced pressure. The solids are triturated with methanol and the combined methanol solutions are evaporated to give t-butyl-tris(hydroxymethyl)acetate.

reactant | 4-carboxy-1-methyl-2,6,7-trioxabicyclo[2.2.2]octane | 0.053 mol, 9.3 g | C(=O)(O)C12COC(OC1)(OC2)C | C7H10O5
reactant | 1,3-dicyclohexylcarbodiimide | 0,053 mol, 10.9 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-methyl-2-propanol | 0.053 mol, 5.0 mL, 3.9 g | CC(C)(C)O | C4H10O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 4-(t-butoxycarbonyl)-1-methyl-2,6,7-trioxabicyclo[2.2.2]octane | C(C)(C)(C)OC(=O)C12COC(OC1)(OC2)C | C11H18O5
